US08183380B2
rac-N2-(6-Fluoro-indan-1-yl)-quinoline-2,6-diamine
The title compound was prepared in accordance with the general method described in example 2 from 2-chloro-6-nitro-quinoline and rac-6-fluoro-indan-1-ylamine (CAS no: 168902-77-0); MS: m/e=294.3 (M+H+).

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | rac-6-fluoro-indan-1-ylamine | FC1=CC=C2CCC(C2=C1)N | C9H10FN
product | rac-N2-(6-Fluoro-indan-1-yl)-quinoline-2,6-diamine | FC1=CC=C2CCC(C2=C1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
